US07598391B2
1,1-Dicyclohexyl-3-[5-(1,1-dioxo-thiomorpholin-4-ylmethyl)-thiazol-2-yl]-urea
Prepared as described in general procedure (P) using 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea (67 mg. 0.20 mmol), 1,1-dioxo-thiomorpholine hydrochloride (52 mg, 0.30 mmol) and sodium triacetoxyborohydride (51 mg, 0.24 mmol) to afford 16 mg (18%) of the desired product after purification.

reactant | 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea | 0.20 mmol, 67 mg | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)C=O)C1CCCCC1 | C17H25N3O2S
reactant | 1,1-dioxo-thiomorpholine hydrochloride | 0.30 mmol, 52 mg | Cl.O=S1(CCNCC1)=O
reactant | sodium triacetoxyborohydride | 0.24 mmol, 51 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 1,1-Dicyclohexyl-3-[5-(1,1-dioxo-thiomorpholin-4-ylmethyl)-thiazol-2-yl]-urea | 16 mg, 18% | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)CN1CCS(CC1)(=O)=O)C1CCCCC1 | C21H34N4O3S2
